US04343951
Following the procedure of Example 1B, the 4,5-difluoroanthranilic acid was decarboxylated by reaction with sulfuric acid, to form 3,4-difluoroaniline.

reactant | 4,5-difluoroanthranilic acid | FC=1C=C(C(C(=O)O)=CC1F)N | C7H5F2NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
